US09238640B2
Preparation of 2-(3-(2-Hydroxyethoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
A mixture of 2-amino-4,6-dimethoxy-benzamide (195 mg, 1.00 mmol), 3-(2-hydroxy-ethoxy)-benzaldehyde (166 mg, 1.00 mmol), p-toluenesulfonic acid monohydrate (38 mg, 0.20 mmol), and sodium bisulfite (264 mg, 1.50 mmol) in N,N-dimethylacetamide (10 mL) was stirred at 130° C. under nitrogen for 14 hours, cooled to room temperature, and diluted with 0.2 N potassium carbonate aqueous solution (50 mL). It was extracted with ethyl acetate (250 mL), dried over sodium sulfate, and concentrated. The solid residue was re-dissolved in dichloromethane (5 mL), and precipitated with ethyl acetate (15 mL) and hexanes (50 mL). It was filtered and washed with hexanes to afford the title compound as a yellow solid. Yield: 70 mg (20%). MP 244.8-246.0° C. 1H NMR (400 MHz, CDCl3): δ 7.64 (d, 1H), 7.60 (d, 1H), 7.45 (t, 1H), 7.12 (dd, 1H), 6.84 (d, 1H), 6.48 (d, 1H), 4.21 (t, 2H), 4.03 (t, 2H), 3.99 (s, 3H), 3.94 (s, 3H). MS (ES+) m/z: 343.55 (M+1).

reactant | 2-amino-4,6-dimethoxy-benzamide | 1.00 mmol, 195 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 3-(2-hydroxy-ethoxy)-benzaldehyde | 1.00 mmol, 166 mg | OCCOC=1C=C(C=O)C=CC1 | C9H10O3
reactant | p-toluenesulfonic acid monohydrate | 0.20 mmol, 38 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bisulfite | 1.50 mmol, 264 mg | S([O-])(O)=O.[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | potassium carbonate | 0.2 N, 50 mL | C([O-])([O-])=O.[K+].[K+]
product | 2-(3-(2-Hydroxyethoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | OCCOC=1C=C(C=CC1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C18H18N2O5
